US09145354B2
(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propan-1-amine (0.1 g, 0.34 mmol) and 3-bromopropionamide (0.052 g, 0.34 mmol) heated in a microwave tube at 120° C., 150 W for 30 minutes. Reaction purified by Prep HPLC using Basic 0A3 system, followed by silica column (Biotage SP4) eluting 0-10% MeOH in EtOAc to give 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]amino}propanamide (0.001 g).

reactant | (1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propan-1-amine | 0.34 mmol, 0.1 g | ClC1=C(C(=C(C=C1)[C@@H](CC)N)F)C(=O)C=1C=NC=CC1 | C15H14ClFN2O
reactant | 3-bromopropionamide | 0.34 mmol, 0.052 g | BrCCC(=O)N | C3H6BrNO
product | 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]amino}propanamide | 0.001 g | ClC1=C(C(=C(C=C1)[C@@H](CC)NCCC(=O)N)F)C(=O)C=1C=NC=CC1 | C18H19ClFN3O2
